US06710055B2
f) Ethyl 1-methyl-2-methoxymethylthieno[2,3-d]imidazol-5-yl-carboxylate
To a freshly prepared sodium ethoxide solution (from 391 mg, 17 mmol of sodium) in 15 mL of ethanol were added dropwise 1.9 mL (2.1 g, 17 mmol) of ethyl thioglycolate. After 1 hour stirring at ambient temperature, 1.6 g (8.5 mmol) of 5-chloro-4-formyl-2-methoxymethyl-1-methylimidazole in 20 mL of absolute ethanol were added and the mixture was heated to 80° C. (analogously to B. Iddon et al., J. Chem. Soc. Perkin Trans. I, 1987, 1457). After 5 hours, the solvent was distilled off, the residue was taken up in 50 mL of methylene chloride and washed with 20 mL of water. The aqueous phase was washed again with 20 mL of methylene chloride and then the combined organic phases were dried with sodium sulfate. After removal of the solvent in vacuo, the crude product obtained was purified by column chromatography (aluminium oxide; methylene chloride). Yield: 1.0 g (46% of theory), C11H14N2O3S (254.31); Rf value: 0.48 (silica gel; methylene chloride/ethanol=50:1); EKA mass spectrum: (M+H)+=255; (M+Na)+=277.

reactant | sodium ethoxide | 17 mmol, 391 mg | [O-]CC.[Na+]
reactant | ethyl thioglycolate | 17 mmol, 1.9 mL, 2.1 g | C(CS)(=O)OCC | C4H8O2S
reactant | 5-chloro-4-formyl-2-methoxymethyl-1-methylimidazole | 8.5 mmol, 1.6 g | ClC1=C(N=C(N1C)COC)C=O | C7H9ClN2O2
solvent | ethanol | 15 mL | C(C)O | C2H6O
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | Ethyl 1-methyl-2-methoxymethylthieno[2,3-d]imidazol-5-yl-carboxylate | CN1C(=NC2=C1C=C(S2)C(=O)OCC)COC | C11H14N2O3S
